US09382188B2
step 2) 1-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-yl)-2-methylpropan-1-one
Under a nitrogen atmosphere, to a solution of 1-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-yl)-2-methylpropan-1-ol (256.9 mg) in DMSO (4.2 mL) were added triethylamine (523 μL) and sulfur trioxide pyridine complex (299 mg) at room temperature, and the mixture was stirred for 24 hr. To the reaction mixture was added 0.5N hydrochloric acid, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (217 mg) as a pale-yellow oil.

reactant | 1-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-yl)-2-methylpropan-1-ol | 256.9 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC1=CC=C(C=C1)OC)C(C(C)C)O | C25H27FO4
reactant | triethylamine | 523 μL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 0.5N | Cl | ClH
solvent | DMSO | 4.2 mL | CS(=O)C | C2H6OS
product | 1-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-yl)-2-methylpropan-1-one | 217 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC1=CC=C(C=C1)OC)C(C(C)C)=O | C25H25FO4
